US04642308
The procedure is similar to that described in Example 1, but starting with 4-methoxybenzoic acid (10.2 g), N,N'-carbonyldiimidazole (10.8 g) and 2-amino-7-bromo-1,8-naphthyridine (11.2 g). The product produced by precipitation in water (9.8 g; m.p. 220° C.) is dissolved in boiling acetonitrile (1000 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (2×10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-bromo-1,8-naphthyridin-2-yl)-4-methoxybenzamide (8.3 g) is produced, m.p. 221° C.

reactant | 4-methoxybenzoic acid | 10.2 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-amino-7-bromo-1,8-naphthyridine | 11.2 g | NC1=NC2=NC(=CC=C2C=C1)Br | C8H6BrN3
reactant | acetonitrile | 1000 cc | C(C)#N | C2H3N
solvent | water | 9.8 g | O | H2O
product | N-(7-bromo-1,8-naphthyridin-2-yl)-4-methoxybenzamide | 8.3 g | BrC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O | C16H12BrN3O2
